US07091215B2
2-Methoxy-7-(2-methoxy-4,6-dimethylphenyl)-3-nitrosopyrazolo[1,5-a]pyridine (200 mg) was suspended in ethanol (10 mL), and then water (5 mL), acetic acid (0.5 mL) and zinc powder (200 mg) were added and the mixture was heated and stirred at 60° C. for 1 hour. The reaction mixture was filtered, water was added to the filtrate, extraction was performed with ethyl acetate and the organic layer was washed with saturated aqueous sodium hydrogencarbonate and brine. The obtained organic layer was dried over anhydrous magnesium sulfate and filtered, and then the solvent was concentrated under reduced pressure to obtain 2-methoxy-7-(2-methoxy-4,6-dimethylphenyl)pyrazolo[1,5-a]pyridine-3-amine as a crude product. This was dissolved in tetrahydrofuran (5 mL) without purification, and after adding cyclopropanecarboxyaldehyde (0.166 mL) and 3 M aqueous sulfuric acid (0.739 mL), sodium borohydride (56 mg) was added in five portions while vigorously stirring on ice, and stirring was continued for 1 hour. Saturated aqueous sodium hydrogencarbonate was added to the reaction mixture, extraction was performed with ethyl acetate, and the extract was washed with brine. After drying over anhydrous magnesium sulfate and filtration, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography, and the title compound (240 mg) was obtained from the n-hexane:ethyl acetate (30:1) fraction as a yellow oil.

reactant | 2-Methoxy-7-(2-methoxy-4,6-dimethylphenyl)-3-nitrosopyrazolo[1,5-a]pyridine | 200 mg | COC1=NN2C(C=CC=C2C2=C(C=C(C=C2C)C)OC)=C1N=O | C17H17N3O3
reactant | water | 5 mL | O | H2O
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | zinc | 200 mg | [Zn] | Zn
product | 2-methoxy-7-(2-methoxy-4,6-dimethylphenyl)pyrazolo[1,5-a]pyridine-3-amine | COC1=NN2C(C=CC=C2C2=C(C=C(C=C2C)C)OC)=C1N | C17H19N3O2
